US04889848
(cb) 2.56 g of diethyl [3,4-dihydrothieno[2,3-f][1,4]thiazepin-8(5H)-ylidene]malonate was suspended in 15.6 ml of ethanol and, after the addition of 4.3 ml of 2N ethanolic sodium methylate solution, the mixture was heated to reflux until the reaction was completed. The solvent was removed in vacuo and the residue was taken up in 60 ml of water and extracted several times with methylene chloride. After washing the organic phases with water and drying with sodium sulfate, they were chromatographed on silica gel. After recrystallization, there was obtained ethyl [6,7-dihydrothieno[2,3-f][1,4]thiazepine-8-(5H)-ylidene]acetate in the form of yellowish crystals, m.p. 86°-87° (ethanol).

reactant | diethyl [3,4-dihydrothieno[2,3-f][1,4]thiazepin-8(5H)-ylidene]malonate | 2.56 g | S1CCNCC2=C1C(CS2)=C(C(=O)OCC)C(=O)OCC | C14H19NO4S2
reactant | sodium methylate | 2N, 4.3 ml | C[O-].[Na+]
solvent | ethanol | 15.6 ml | C(C)O | C2H6O
product | ethyl [6,7-dihydrothieno[2,3-f][1,4]thiazepine-8-(5H)-ylidene]acetate | S1CC=NCC2=C1C(CS2)=CC(=O)OCC | C11H13NO2S2
